** Generated for: hspiceD
** Generated on: Jan  5 21:00:24 2020
** Design library name: PhasedArray_WB_copy
** Design cell name: ILO_10G_2BITS
** Design view name: schematic


.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_bip
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_mim
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_dnw
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_18
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_bip_npn
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfrtmom
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_mos_cap_25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_18
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_disres
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_res
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_na
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmos_33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_hvt
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmvar
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmos_18
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_na
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_na33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_lvt
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfres_sa
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_na33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_esd
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmim
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_25od33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_25od33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_mos_cap
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_25ud18
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmos
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_25ud18
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_na25od33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfjvar
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmos_25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rtmom
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_na25od33
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_dio_na25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfres_rpo
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_hvt
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfind
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_rfmvar_25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_na25
.LIB "/project/analog-group04/TSMC65GP_2f/models/hspice/crn65gplus_2d5_lk_v1d0.l" tt_lvt

** Library name: PhasedArray_WB_copy
** Cell name: res_24K
** View name: schematic
.subckt res_24K t1 t2 vss
xr4 t2 net05 vss rppolywo_rf l=8e-6 w=500e-9 m=1 mismatchflag=0
xr2 net06 net05 vss rppolywo_rf l=8e-6 w=500e-9 m=1 mismatchflag=0
xr1 net06 net6 vss rppolywo_rf l=8e-6 w=500e-9 m=1 mismatchflag=0
xr0 t1 net6 vss rppolywo_rf l=8e-6 w=500e-9 m=1 mismatchflag=0
.ends res_24K
** End of subcircuit definition.

** Library name: PhasedArray_WB_copy
** Cell name: capbank_gp_lowC_noLSB_9u_2BITS
** View name: schematic
.subckt capbank_gp_lowC_noLSB_9u_2BITS b<3> b<2> b<1> b<0> left right vdd vss
xc3 right net3 vss mimcap_woum_sin_rf lt=9e-6 wt=9e-6 lay=7 m=2 mimflag=3 mismatchflag=0
xc2 left net1 vss mimcap_woum_sin_rf lt=9e-6 wt=9e-6 lay=7 m=2 mimflag=3 mismatchflag=0
xc1 right net4 vss mimcap_woum_sin_rf lt=9e-6 wt=9e-6 lay=7 m=1 mimflag=3 mismatchflag=0
xc0 left net2 vss mimcap_woum_sin_rf lt=9e-6 wt=9e-6 lay=7 m=1 mimflag=3 mismatchflag=0
xm1 net1 b1_buf net3 vss nmos_rf lr=60e-9 wr=2e-6 nr=20 sigma=1 m=2 mismatchflag=0
xm0 net2 b0_buf net4 vss nmos_rf lr=60e-9 wr=2e-6 nr=20 sigma=1 m=1 mismatchflag=0
m44 net0155 net0120 vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m40 net0120 b<3> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m37 net0159 net0104 vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m36 net0158 net0105 vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m35 net0157 net0106 vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m31 net0104 b<2> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m30 net0105 b<1> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m29 net0106 b<0> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m18 b3_buf b3_inv vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m16 b3_inv b<3> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m15 b2_inv b<2> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m13 b2_buf b2_inv vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m11 b1_buf b1_inv vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m9 b1_inv b<1> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m7 b0_buf b0_inv vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m4 b0_inv b<0> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m42 net0155 net0120 vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m38 net0120 b<3> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m34 net0159 net0104 vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m33 net0158 net0105 vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m32 net0157 net0106 vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m28 net0104 b<2> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m27 net0105 b<1> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m26 net0106 b<0> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m19 b3_inv b<3> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m17 b3_buf b3_inv vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m14 b2_buf b2_inv vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m12 b2_inv b<2> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m10 b1_buf b1_inv vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m8 b1_inv b<1> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m6 b0_buf b0_inv vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m5 b0_inv b<0> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
xi16 b1_inv net3 vss res_24K
xi17 b1_inv net1 vss res_24K
xi18 b0_inv net2 vss res_24K
xi19 b0_inv net4 vss res_24K
.ends capbank_gp_lowC_noLSB_9u_2BITS
** End of subcircuit definition.

** Library name: PhasedArray_WB_copy
** Cell name: VCO_10G_2BITS
** View name: schematic
.subckt VCO_10G_2BITS dig_vco<3> dig_vco<2> dig_vco<1> dig_vco<0> outm outp vddsw vdd_vco0p5 vss vtune
xc4 outm vtune vss moscap_rf_nw wr=2e-6 lr=500e-9 br=4 gr=4 m=1
xc0 outp vtune vss moscap_rf_nw wr=2e-6 lr=500e-9 br=4 gr=4 m=1
xm0 outp outm vss vss nmos_rf lr=60e-9 wr=1e-6 nr=25 sigma=1 m=2 mismatchflag=0
xm1 outm outp vss vss nmos_rf lr=60e-9 wr=1e-6 nr=25 sigma=1 m=2 mismatchflag=0
xi10 dig_vco<3> dig_vco<2> dig_vco<1> dig_vco<0> outm outp vddsw vss capbank_gp_lowC_noLSB_9u_2BITS
xl0 outp outm vss vdd_vco0p5 spiral_sym_ct_mu_z w=9e-6 nr=2 rad=35.5e-6 lay=9 spacing=3e-6 gdis=10e-6 m=1
.ends VCO_10G_2BITS
** End of subcircuit definition.

** Library name: PhasedArray_WB_copy
** Cell name: ILO_IN_V5_CROSS
** View name: schematic
.subckt ILO_IN_V5_CROSS in out out_aux vddsw vss
xc2 in net3 vss mimcap_woum_sin_rf lt=20e-6 wt=20e-6 lay=7 m=1 mimflag=3 mismatchflag=0
xr4 vss net08 vss rppolywo_rf l=6e-6 w=1e-6 m=1 mismatchflag=0
xr3 vss net3 vss rppolywo_rf l=12e-6 w=1e-6 m=1 mismatchflag=0
xr2 net3 vddsw vss rppolywo_rf l=12e-6 w=1e-6 m=1 mismatchflag=0
xm0 out_aux net3 net08 net08 nmos_rf lr=60e-9 wr=2e-6 nr=18 sigma=1 m=1 mismatchflag=0
xm3 out net3 vss vss nmos_rf lr=60e-9 wr=2e-6 nr=20 sigma=1 m=1 mismatchflag=0
.ends ILO_IN_V5_CROSS
** End of subcircuit definition.

** Library name: PhasedArray_WB_copy
** Cell name: ILO_10G_2BITS
** View name: schematic
xi11 dig_vco<3> dig_vco<2> dig_vco<1> dig_vco<0> outm outp vddsw vdd_vco0p5 vss vtune VCO_10G_2BITS
xi12 inp outm outp vddsw vss ILO_IN_V5_CROSS
xi13 inm outp outm vddsw vss ILO_IN_V5_CROSS
.END
